US08859580B2
2,2,2-Trifluoro-1-[(6R,10S)-5,6,7,8,9,10-hexahydro-10,12,12-trimethyl-2-pyrazin-2-yl-6,10-methano-1H-imidazo[5,4-i][3]benzazocin-7-yl]-ethanone
A solution of pyrazine-2-carboxylic acid (152 mg), 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (397 mg), and triethylamine (0.5 mL) in dimethylformamide (5 mL) is stirred at room temperature for 30 min, before 1-[(2R,6S)-8,9-diamino-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-2,2,2-trifluoro-ethanone (300 mg) is added. The solution is stirred at room temperature overnight. Then, the solution is diluted with EtOAc and washed with water and 2 M aqueous K2CO3 solution and dried (MgSO4). The solvent is removed under reduced pressure and the residue is taken up in acetic acid (5 mL). The resulting solution is heated at 80° C. overnight. Then, the solvent is removed under reduced pressure and the residue is evaporated twice with toluene to give the crude title compound that is used without further purification.

reactant | pyrazine-2-carboxylic acid | 152 mg | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 397 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | 1-[(2R,6S)-8,9-diamino-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-2,2,2-trifluoro-ethanone | 300 mg | NC1=CC2=C(C[C@H]3N(CC[C@@]2(C3(C)C)C)C(C(F)(F)F)=O)C=C1N | C17H22F3N3O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2,2,2-Trifluoro-1-[(6R,10S)-5,6,7,8,9,10-hexahydro-10,12,12-trimethyl-2-pyrazin-2-yl-6,10-methano-1H-imidazo[5,4-i][3]benzazocin-7-yl]-ethanone | FC(C(=O)N1[C@@H]2CC3=C([C@](CC1)(C2(C)C)C)C=C2C(=C3)N=C(N2)C2=NC=CN=C2)(F)F | C22H22F3N5O
